US05475001
Using an analogous procedure to that described in Example 4, 6-amino-7-chloro-4-(3'-methylanilino)quinazoline was reacted with 2-chloroacetyl chloride to give 7-chloro-6-(2-chloroacetamido)-4-(3'-methylanilino)quinazoline hydrochloride in 79% yield;

reactant | 6-amino-7-chloro-4-(3'-methylanilino)quinazoline | NC=1C=C2C(=NC=NC2=CC1Cl)NC1=CC(=CC=C1)C | C15H13ClN4
reactant | 2-chloroacetyl chloride | ClCC(=O)Cl | C2H2Cl2O
product | 7-chloro-6-(2-chloroacetamido)-4-(3'-methylanilino)quinazoline hydrochloride | 79% yield | Cl.ClC1=C(C=C2C(=NC=NC2=C1)NC1=CC(=CC=C1)C)NC(CCl)=O | InChI=1S/C17H14Cl2N4O.ClH/c1-10-3-2-4-11(5-10)22-17-12-6-15(23-16(24)8-18)13(19)7-14(12)20-9-21-17;/h2-7,9H,8H2,1H3,(H,23,24)(H,20,21,22);1H
